US04728655
To the crude product composed by ethyl N-[2-[[[2-[(aminoimino-methyl)amino]-4-thiazolyl]methyl]thio]ethyl]formimidate, 5.6 g of p-toluensulfonamide in 50 ml of methanol are dropwise added under stirring and at room temperature. The mixture is kept under stirring for 1 hour at room temperature, the solvent is removed by distillation under reduced pressure, and the obtained residue is purified by 60-silicagel column chromatography. 9.8 g of N-toluen-sulphonyl-N'-[2-[[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methyl]thio]ethyl]formamidine are obtained, having the same physico-chemical properties as in Example 1.

reactant | ethyl N-[2-[[[2-[(aminoimino-methyl)amino]-4-thiazolyl]methyl]thio]ethyl]formimidate | NN=CNC=1SC=C(N1)CSCCN=COCC | C10H17N5OS2
reactant | p-toluensulfonamide | 5.6 g | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | methanol | 50 ml | CO | CH4O
product | N-toluen-sulphonyl-N'-[2-[[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methyl]thio]ethyl]formamidine | 9.8 g | C=1(C(=CC=CC1)S(=O)(=O)NC=NCCSCC=1N=C(SC1)NC=NN)C | C15H20N6O2S3
